US07432287B2
Preparation of 3-(6-ethanesulfonylpyridin-3-yloxy)-5-(2-methoxy-1-methyl-ethoxy)-N-(pyrazol-3-yl)-benzamide
The compound of Production Example 140 was obtained as a colorless amorphous substance using 5-hydroxy-3-methoxymethoxybenzoic acid methyl ester, 5-bromo-2-ethanesulfonylpyridine, (2R)-2-hydroxy-1-methoxypropane and 3-amino-pyrazole, by the same method as in Production Example 117, a corresponding method, or a combination thereof with an ordinary method.

reactant | 5-hydroxy-3-methoxymethoxybenzoic acid methyl ester | COC(C1=CC(=CC(=C1)O)OCOC)=O | C10H12O5
reactant | 5-bromo-2-ethanesulfonylpyridine | BrC=1C=CC(=NC1)S(=O)(=O)CC | C7H8BrNO2S
reactant | (2R)-2-hydroxy-1-methoxypropane | O[C@@H](COC)C | C4H10O2
reactant | 3-amino-pyrazole | NC1=NNC=C1 | C3H5N3
product | 3-(6-ethanesulfonylpyridin-3-yloxy)-5-(2-methoxy-1-methyl-ethoxy)-N-(pyrazol-3-yl)-benzamide | C(C)S(=O)(=O)C1=CC=C(C=N1)OC=1C=C(C(=O)NC2=NNC=C2)C=C(C1)OC(COC)C | C21H24N4O6S
